US04666915
Ethyl 1,6-dihydro-2-methylthio-6-oxo-5-pyrimidinecarboxylate (20 g) and 4-(N,N-dimethylamino)aniline (19 g) are added to ethanol (200 ml), and the mixture is refluxed with stirring for 19 hours. After cooling, the precipitate is collected by filtration and recrystallized from a mixture of DMF and water to give ethyl 1,6-dihydro-2-[4-(N,N-dimethylamino)anilino]-6-oxo-5-pyrimidinecarboxylate (15.7 g).

reactant | Ethyl 1,6-dihydro-2-methylthio-6-oxo-5-pyrimidinecarboxylate | 20 g | CSC=1NC(C(=CN1)C(=O)OCC)=O | C8H10N2O3S
reactant | 4-(N,N-dimethylamino)aniline | 19 g | CN(C)C1=CC=C(N)C=C1 | C8H12N2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 1,6-dihydro-2-[4-(N,N-dimethylamino)anilino]-6-oxo-5-pyrimidinecarboxylate | 15.7 g | CN(C)C1=CC=C(NC=2NC(C(=CN2)C(=O)OCC)=O)C=C1 | C15H18N4O3
